US08877742B2
4-chloro-1,6-dimethyl-3-(3-(pyrrolidin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine
A mixture of 4-chloro-3-iodo-1,6-dimethyl-1H-pyrrolo[2,3-b]pyridine (D13) (500 mg, 1.631 mmol), (3-(pyrrolidin-1-yl)phenyl)boronic acid (374 mg, 1.957 mmol), bis(triphenylphosphine)palladium(II) chloride (114 mg, 0.163 mmol) and sodium carbonate (2M aq. solution) (8 mL, 16.00 mmol) was heated at 65° C. for 1 hour. The mixture was transferred to a separatory funnel with ethyl acetate (50 mL). The aqueous layer was extracted with ethyl acetate (30 mL×3). The organics were combined, dried over magnesium sulfate and concentrated. The crude was purified over normal phase chromatography eluting with ethyl acetate and cyclohexane (0-30%) to give the title compound (135 mg). LCMS (A): m/z (M+H)+ 326, C19H20ClN3 requires 325 (acidic).

reactant | 4-chloro-3-iodo-1,6-dimethyl-1H-pyrrolo[2,3-b]pyridine | 1.631 mmol, 500 mg | ClC1=C2C(=NC(=C1)C)N(C=C2I)C | C9H8ClIN2
reactant | (3-(pyrrolidin-1-yl)phenyl)boronic acid | 1.957 mmol, 374 mg | N1(CCCC1)C=1C=C(C=CC1)B(O)O | C10H14BNO2
reactant | sodium carbonate | 16.00 mmol, 2M, 8 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.163 mmol, 114 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-chloro-1,6-dimethyl-3-(3-(pyrrolidin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine | 135 mg | ClC1=C2C(=NC(=C1)C)N(C=C2C2=CC(=CC=C2)N2CCCC2)C | C19H20ClN3
